US05679696
A solution of 3-isopropylthio-4-methoxybenzoic acid (2.5 g; that is prepared as described in Reference Example 49) in toluene (25 mL) and dimethylformamide (0.2 mL) is treated with thionyl chloride (2.5 mL) and the solution is stirred at 60° C. for 3 hours. The solution is concentrated, treated with toluene (10 mL) and again evaporated to dryness, to give 3-isopropylthio-4-methoxybenzoyl chloride (2.7 g), in the form of a light brown oil.

reactant | 3-isopropylthio-4-methoxybenzoic acid | C(C)(C)SC=1C=C(C(=O)O)C=CC1OC | C11H14O3S
reactant | dimethylformamide | 0.2 mL | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 2.5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 3-isopropylthio-4-methoxybenzoyl chloride | 2.7 g | C(C)(C)SC=1C=C(C(=O)Cl)C=CC1OC | C11H13ClO2S
